US09447258B2
To a solution of 121.1 g of neodecanoic acid (0.7 mol) or 165.9 g of naphthenic acid or 102 g of 2-ethyl hexanoic acid at 99% in 300 g of toluene are added over 1 hour 125.44 g of a solution of sodium methoxide at 30.1% by weight in methanol (0.7 mol). Next, a solution of zinc chloride in slight excess (49.92 g at 98% by weight, 0.359 mol) in 50 g of methanol is added over 40 minutes. The methanol/toluene azeotrope is distilled off for 2 hours. The reaction mixture is cooled to room temperature and the sodium chloride is then filtered off. The clear, colourless solution is evaporated to dryness (at 70° C., 1 mbar) to give a viscous oil: 143.3 g of zinc neodecanoate or 229.2 g of zinc naphthenate or 123.2 g of zinc 2-ethylhexanoate (100% yield).

reactant | neodecanoic acid | 0.7 mol, 121.1 g | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | 2-ethyl hexanoic acid | 102 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
reactant | zinc neodecanoate | 143.3 g | C(CCCCCC(C)(C)C)(=O)[O-].[Zn+2].C(CCCCCC(C)(C)C)(=O)[O-]
reactant | zinc naphthenate | 229.2 g | C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].[Zn+2]
solvent | toluene | 300 g | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 50 g | CO | CH4O
solvent | methanol | 0.7 mol | CO | CH4O
product | zinc 2-ethylhexanoate | 123.2 g, 100% yield | C(C)C(C(=O)[O-])CCCC.[Zn+2].C(C)C(C(=O)[O-])CCCC | InChI=1S/2C8H16O2.Zn/c2*1-3-5-6-7(4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
